US07544704B2
a) 5-Iodo-2-methyl-thiazole-4-carboxylic acid ethyl ester
To a solution of ethyl 2-methylthiazole-4-carboxylate (11.2 g, 65.4 mmol) in acetic acid (200 mL) were added sulfuric acid (30%, 20 mL), carbontetrachloride (30 mL), iodine (33.2 g, 131 mmol) and iodic acid (11.5 g, 65.4 mmol) and the resulting reaction mixture was stirred for 19 h at 80° C. After addition of aqueous sodium thiosulfate (1 M, 500 mL) it was extracted with ethyl acetate (1000 mL). The combined organic layers were washed with aqueous sodium carbonate (saturated, 1000 mL), dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 20:80) afforded the title compound (9.00 g, 37%) as a white crystalline solid. MS: m/e=298.1 [M+H]+.

reactant | ethyl 2-methylthiazole-4-carboxylate | 65.4 mmol, 11.2 g | CC=1SC=C(N1)C(=O)OCC | C7H9NO2S
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | iodine | 131 mmol, 33.2 g | II | I2
reactant | iodic acid | 65.4 mmol, 11.5 g | I(=O)(=O)O | HIO3
reactant | sodium thiosulfate | 1 M, 500 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | carbontetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Iodo-2-methyl-thiazole-4-carboxylic acid ethyl ester | 9.00 g, 37% | C(C)OC(=O)C=1N=C(SC1I)C | C7H8INO2S
